US04912108
c. 2,3-Dihydroxy-6-nitrobenzo(f)quinoxaline
A suspension of 1,2-diethoxalylamino-4-nitronapthalene (3.0 g, 7.4 mmol) in 100 ml of 4M hydrochloric acid was refluxed with stirring for 3 h. The mixture was cooled, and the product was isolated by filtration and washed wi water, ethanol and ether. Yield 1.8 g (94%), m.p. >300° C., IR (KBr): 1710 cm-1,1H-NMR (DMSO-d6 ): 7.47-7.83 (m, 2H, ArH), 8.21 (s, 1H,H-5), 8.33-8.73 (m, 2H, ArH), 12.25 (s, 1H,0H), 12,40 (s,1H,0H).

reactant | 1,2-diethoxalylamino-4-nitronapthalene | 7.4 mmol, 3.0 g | C(=O)(C(=O)OCC)NC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])NC(=O)C(=O)OCC | C18H17N3O8
solvent | hydrochloric acid | 4M, 100 ml | Cl | ClH
product | 2,3-Dihydroxy-6-nitrobenzo(f)quinoxaline | OC=1C(=NC=2C=C(C3=C(C2N1)C=CC=C3)[N+](=O)[O-])O | C12H7N3O4
